US07829560B2
4-Cyano-N-[4-(2-morpholin-4-ylethoxy)-1-naphthyl]benzamide (Compound B36).
Compound is prepared from 4-cyanobenzoic acid and 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-ylamine according to conditions described in general procedure G. Mp: 213-214° C.; 1H NMR (300 MHz, CDCl3) δ 2.70 (m, 4H), 3.00 (t, 2H), 3.78 (t, 4H), 4.35 (t, 2H), 6.80 (d, 1H), 7.50-7.70 (m, 5H), 7.80 (d, 1H), 7.95 (d, 2H), 8.31 (s, 2H); MS 402 (M+1).

reactant | 4-cyanobenzoic acid | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-ylamine | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)N | C16H20N2O2
product | 4-Cyano-N-[4-(2-morpholin-4-ylethoxy)-1-naphthyl]benzamide | C(#N)C1=CC=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=C1 | C24H23N3O3
